Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I want to kill myself."
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old homeless man with methamphetamine 
and cocaine use disorder, history of unspecified psychotic 
disorder, suicide attempts, and past psychiatric 
hospitalizations who was found in the ___ lobby on ___ 
crying, malodorous, and not wearing shoes, endorsing SI.
.
Per the psychiatry consult note in the ED: 
"Mr. ___ states that he felt like "killing [himself] today, 
[he] will today or tomorrow."  When asked what his plan is, he 
states "I feel like taking my heart out with a knife and 
chopping it up."  He notes he had a knife but threw it into a 
dumpster; he was forced to do so because he "ran from the cops" 
and came here.
.
Mr. ___ states he had to run because he punched a man 
earlier in the day, because this man touched him the man 
"deserves to die," he "was trying to kill the ___ and "was 
pressing his eyeball."  Somebody who saw this called the police.
.
Mr. ___ notes that he has been feeling suicidal for the 
past 3 weeks (or a few months ago, discrepancy noted), same 
plan, no fluctuations in desire. He notes he wants to do so 
because he can't stop using drugs, specifically meth (last used 
yesterday, has been using daily; first started using ___ years 
ago).  Mr. ___ wants help.
.
Mr. ___ also endorses ___ to kill himself, also hears 
voices that he's not worth it and should keep doing drugs.  
Additionally endorses paranoia that the "people in ___ are out 
to get him." 
.
He notes he wants to choke his mom to death, but when why he 
just shakes his head.
.
Of note, partway through interview Mr. ___ became irritated 
with being asked questions and angrily declined to participate  
further."
.
On interview at this time, Mr. ___ states he continues to 
feel depressed and wants to kill himself. He states he may kill 
himself while on the unit by swallowing and choking on soap. He 
cannot contract for safety. He denies homicidal ideation 
currently, but states he did have thoughts of hurting and 
killing people before, and punched a man prior to coming to the 
hospital.
.
He denies any auditory or visual hallucinations currently. He 
states he did have auditory hallucinations early, telling him to 
kill people, kill himself, use drugs, and telling him he is not 
worthy. He states he hasn't been sleeping well recently, mainly 
because he is homeless.  He becomes increasingly agitated 
through the interview, asking to stop so he can eat and sleep.
.  
Psych ROS: as above in HPI
General ROS: All systems reviewed and were negative.
.
ED Course:
Per RN report, patient was found in ___ tearful, 
endorsing SI with no plan. He wascooperative on arrival to his 
room, changed into gown and belongings secured. He voiced HI 
statements to MD to hurt his mother. He was calm and cooperative 
overnight.
.
Medication admins in ED:
___ 22:44 PO Acetaminophen 650 mg 
___ 00:07 PO OxyCODONE (Immediate Release) 5 mg 
___ 00:07 PO RisperiDONE 1 mg 
___ 10:56 PO RisperiDONE 1 mg 
.
At this primary team's initial encounter with the patient, On 
interview today, Mr. ___ states that he is here at the 
hospital because he is "suffering... from drugs." He states that 
he went to the ED because he "was thinking of killing himself." 
When asked more details, he states that he had a plan of "taking 
out my heart with a knife and chopping it up." He does endorse
having prior SA, prior details are unclear but he does mention 
jumping off a bridge ___ years ago and arriving to ___. It is 
unclear if this was actually performed or a considered plan.
.
(Per ___ records, Mr. ___ was admitted to ___ in ___, with 
notes describing that he was a ___ AA gay male with an unclear 
past psychiatric history who self-presented to ED after 
reportedly consuming 2 extra seroquel (100mg each) as an OD 
attempt and reported SI with multiple plans to nursing.)
.
He does endorse having AH as "voices." He states "not right now" 
but that they occur approximately every week. The voices tell 
him thinking like he is "not worthy" and "to keep using drugs."
.
He states that he was admitted to ___ in ___ and at discharge 
was taking Seroquel (confirmed in discharge worksheet). He 
states that the Seroquel was helpful in decreasing the voices.  
He denies any side effect from this regimen. It is initially 
unclear why he stopped taking this medication but he ultimately 
describes that he ran out / moved and no longer had the 
medication. Details
are vague regarding his subsequent aftercare. At this time, he 
is homeless, has no PCP and no outpatient psychiatrist or 
therapist and states that he has not received medical care in 
quite some time prior to the ED arrival.
.
He states his current mood is "so-so." He endorses that his 
recent sleep has been okay. Appetite intact and has finished a 
food tray at bedside. 
.
He denies having nightmares or flashbacks.
.
Regarding substances, he endorses using methamphetamines daily, 
last used 2 days ago. He uses crack every week, last used 3 days 
ago. He endorses EtOH about once a week of one beer.
.
He denies having any chronic PMH. Acutely, he recently punched a 
wall (details at this time unclear) and is wearing a splint on 
his R hand/forearm from the ED.
.
He states at this time the voices are "better."
.
At this time, he denies HI. Details around his prior statements 
regarding blood are unclear but he denies having any thoughts of 
harm towards others at this time.
.
He states that his goal of this admission is "to get into a 
program for drugs." As an example, he lists the ___ 
in ___. He describes that he came to the ED because he had 
found these programs difficult to get into on his own.
.
.

 
Past Medical History:
Past Psychiatric History: 
-Prior diagnoses: Substance induced psychosis, methamphetamine
use disorder, cocaine use disorder, cannabis use disorder; Per
Dr. ___ ___ Discharge Summary (___), he was
diagnosed with "mood d/o NOS, crack cocaine abuse, marijuana
abuse, cluster B traits"
-Hospitalizations: Deac 4 ___, ___ 
___,
Arbour EATS ___
-Psychiatrist: None
-Therapist: None
-Medication trials: Celexa, trazodone, Seroquel
-Suicide attempts: Hanging ___ years ago, attempted to jump off
___ bridge ___ years ago (bystanders called EMS); Per Dr.
___ ___ Discharge Summary (___), endorsed 5 SA
-Self-injurious behavior: Denies
-Harm to others: Endorses; cannot say what
-Trauma: Sexual abuse as child
-Access to weapons: Unclear; talks about "a ship of guns ...
___
.
.
Past medical history: 
-Denies any history of or active medical problems
-Denies history of head trauma, seizure
.
.
 
Social History:
Social History:
-Grew up in ___ and moved to ___ in ___ to be 
closer to friends
-___ ___ grade
-Last worked in ___ serving ___ food
-Currently homeless

Per Psychiatry Initial Eval in the ED, 
"Patient states he is from ___ and that childhood sucked 
because his father was in prison and mom is a drug addict.  
States he came here six months ago because he felt like it.  Was 
staying with a friend for 2 months but has been kicked out and 
now staying on streets.  Denies legal problems or access to 
weapons."
-Per Dr. ___ ___ Discharge Summary (___), 
"Left home at ___ after parents disowned him ___ being gay, 
relied on bf for housing an money now broken up, completed hs, 
no job, h/o sexual, verbal, and physical abuse at age ___ by 
uncle."
.
.
Forensic history: ___
Substance Use History: 
-Tobacco: Denies
-Alcohol: On occasion, denies daily use, when asked about 
quantity states "not enough"
-Marijuana: Denies
-Heroin: Denies
-Opiates: Denies
-Cocaine: states he has been using recently, does not elaborate 
further
-Amphetamines/speed: Daily use at present, started using ___ years 
ago
.
.
 
Family History:
Family psychiatric history: 
-Patient denies any family history of psychiatric disorder
Per ___ Discharge Summary from ___:
"Mom with schizophrenia"
 
Physical Exam:
PHYSICAL EXAMINATION:
VS: T-98.5 PO  BP-128/83  HR-98  RR-16  O2Sat-98   
.
General: ___ year old man in ___. Well-nourished, well-developed.
Appears stated age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: No apparent rashes, abrasions, scars, or lesions. 
.
Neurological:
 Cranial Nerves:
 I: Not tested.
 II: PERRL.
 III, IV, VI: EOMI intact ___ without nystagmus.
 V, VII: Facial strength and sensation intact and symmetric.
 VIII: Hearing intact to finger rub bilaterally.
 IX, X: Palatal elevation symmetrical.
 XI: trapezius normal bilaterally.
 XII: Tongue midline without fasciculations.
 Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength: full power ___ throughout. Coordination:
Normal on finger to nose test. DTRs: 2+ and symmetrical
throughout. Sensation: Intact to light touch throughout. 
 Gait: Steady. Normal stance and posture. No truncal ataxia.
.
Cognition: 
  Wakefulness/alertness: awake and alert
  Attention: ___ forward and backward with 0 errors. Refuses 
MOYB
  Orientation: oriented to person, states he is at ___ 
   ___ in ___. States it is ___, self 
   corrects to ___.
  Executive function (go-no go, Luria, trails, FAS): not tested
  Memory: ___ registration. ___ recall, saying 2 different words 

   instead of the ones told to him.
  Fund of knowledge: States current president is Obama, cannot 
   name any previous. Cannot describe any current events.
  Calculations: $1.75 = "10 quarters"
  Abstraction: apple+orange="sweet". watch+ruler="tell time".  
   bike+train = "wheels"
  Visuospatial: not assessed
  Speech: normal volume, some speech latency and paucity, 
monotone
  Language: native ___ speaker, no paraphasic errors, curses 

   occasionally
.
Mental Status:
 Appearance: ___ year old man, appearing his stated age. Multiple 

  silver earrings in both ears. Wearing hospital gown. Appears 
  disheveled. 
 Behavior: Mostly calm, but guarded and minimally cooperative, 
  requiring encouragement to participate in interview, minimal 
  eye contact, psychomotor agitation, constantly moving around 
  in his seat, picking at arm brace
 Mood and Affect: "depressed" / blunted, non reactive.
 Thought Process: linear, coherent. Concrete. No LOA.
 Thought Content: endorses SI with plan. Denies HI. Denies 
AH/VH. No evidence of delusions or paranoia
 Judgment and Insight: poor/poor
.
.
===========================
EXAM AT DISCHARGE:
.
Vital Signs:
105/60, 98.2, HR 98, RR 16, O2 98% RA
.
Mental Status:
-Appearance: man appearing stated age, moderate grooming, in NAD
-Behavior: calm, cooperative, polite; no psychomotor agitation 
or retardation
-Attitude: cooperative
-Mood: "good"
-Affect: Mood-congruent, reactive, full
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content:
---Safety: denies SI/HI at this time
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: Limited given presentation to ED and unclear poor
compliance to prior medications and aftercare 
-Judgment: Fair given motivation to pursue outpatient follow up
.
Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: Not formally assessed but attentive to interview
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): 
Not formally assessed but intact to interview
-Language: ___, no paraphasic errors, appropriate to
conversation
.

 
Pertinent Results:
Laboratory Values:
.
CBC
___: CBC 7.8, H/H 13.3/41.9, Plt 353
.
Chem
___: Glu 103, BUN 18, Cr 0.9, Na 140, K 4.9, Cl 98, Bicarb 
31, AG 11, Ca 9.6, Phos 4.5, Mg 1.6
.
Liver function tests
___: ALT 29, AST 20, AP 73, TBili 0.2
.
Thyroid studies
___: TSH 0.11, T4 5.8 
.
RPR
___: non-reactive
.
===========
.
Initial Laboratory Values at Admission:
.
___ 08:20PM BLOOD WBC:11.0* RBC:5.23 Hgb:13.1* Hct:40.1
MCV:77*# MCH:25.0*# MCHC:32.7 RDW:21.4* RDWSD:57.6* Plt Ct:367
.
___ 08:20PM BLOOD Glucose:98 UreaN:16 Creat:1.1 Na:136
K:9.1* Cl:99 HCO3:22 AnGap:15
.
___ 09:53PM BLOOD K:4.1
.
___ 09:38PM BLOOD ALT:12 AST:19 AlkPhos:68 TotBili:0.3
.
___ 09:38PM BLOOD Calcium:9.3 Phos:4.9* Mg:1.8
.
___ 08:20PM BLOOD ASA:NEG Ethanol:40* Acetmnp:NEG
Bnzodzp:NEG Barbitr:NEG Tricycl:NEG
.
___ 08:20PM URINE bnzodzp:NEG barbitr:NEG opiates:NEG
cocaine:POS* amphetm:POS* oxycodn:NEG mthdone:NEG
.
.
Additional Laboratory Values:
.
___ 09:38PM   ALT(SGPT)-12 AST(SGOT)-19 ALK PHOS-68 TOT 
BILI-0.3
___ 09:38PM   CALCIUM-9.3 PHOSPHATE-4.9* MAGNESIUM-1.8
___ 09:38PM   TSH-0.13*
___ 09:53PM   POTASSIUM-4.1
___ 09:33PM   K+-5.3*
___ 08:20PM   GLUCOSE-98 UREA N-16 CREAT-1.1 SODIUM-136 
POTASSIUM-9.1* CHLORIDE-99 TOTAL CO2-22 ANION GAP-15
___ 08:20PM   estGFR-Using this
___ 08:20PM   ASA-NEG ETHANOL-40* ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 08:20PM URINE  HOURS-RANDOM
___ 08:20PM URINE  UHOLD-HOLD
___ 08:20PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-POS* amphetmn-POS* oxycodn-NEG mthdone-NEG
___ 08:20PM   WBC-11.0* RBC-5.23 HGB-13.1* HCT-40.1 
MCV-77*# MCH-25.0*# MCHC-32.7 RDW-21.4* RDWSD-57.6*
___ 08:20PM   NEUTS-61.5 ___ MONOS-8.8 EOS-1.5 
BASOS-0.7 IM ___ AbsNeut-6.76* AbsLymp-3.01 AbsMono-0.97* 
AbsEos-0.17 AbsBaso-0.08
___ 08:20PM   PLT COUNT-367
___ 08:20PM URINE  COLOR-Yellow APPEAR-Hazy* SP ___
___ 08:20PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-TR* BILIRUBIN-NEG UROBILNGN-2* PH-5.5 
LEUK-NEG
___ 08:20PM URINE  RBC-1 WBC-2 BACTERIA-FEW* YEAST-NONE 
EPI-0
___ 08:20PM URINE  HYALINE-8*
___ 08:20PM URINE  AMORPH-RARE*
___ 08:20PM URINE  MUCOUS-RARE*
.
.
 
Brief Hospital Course:
Mr. ___ is a ___ year old homeless man with methamphetamine 
and cocaine use disorder, history of unspecified psychotic/mood 
disorder, suicide attempts, and past psychiatric 
hospitalizations who was found in the ___ lobby on ___ 
crying, malodorous, and not wearing shoes, endorsing SI. 
Psychiatry was consulted in the ED and the patient was admitted 
to ___ on ___.
.
In the ED, it was considered that based on their interview and 
ED consult notes, it appears Mr. ___ had been experiencing 
worsening psychotic symptoms as well as symptoms of depression 
in the setting of homelessness and methamphetamine and cocaine 
use. His presentation was felt to be consistent with psychosis; 
based
on review of records and current methamphetamine/cocaine use, it 
was considered to be likely substance-induced psychosis. There 
was likely also a significant mood component to his 
presentation, possibly also substance induced; diagnostic
clarification is required. 
.
On our interview, he endorses SI with thoughts of cutting out 
his hart, unclear prior SA, AH of voices approximately weekly, 
poor compliance with prior discharge medication of Seroquel 
after ___ discharge although per account it was helpful and 
without side effect, and active polysubstance use 
(methamphetamines and crack). He is currently homeless. The ED 
and initial arrival to ___ had concerns for harm to others given 
talk about blood, and he initially arrived on security CO.
.
During this hospitalization, he progressed through q15 checks 
and green sharps without incident. He had no behavioral or 
safety concerns. He attended groups including the smart recovery 
group. He endorsed motivation to follow up with outpatient 
aftercare plans including a dual diagnosis partial program. He 
firmly denied any SI/HI. He state that he felt safe to go home.
.
.
Diagnosis:
Mood dis nos, Polysubstance use dis (cocaine, amphetamines, 
ETOH,
cannabis), r/o psychosis sec to subst use
.
.
1. LEGAL & SAFETY:  
Mr. ___ refused to sign a conditional voluntary agreement 
and was admitted on a ___. He was amenable to sign a 
Conditional Voluntary Agreement on ___, which was accepted 
at that time. 
.
At admission, Mr. ___ was placed on security CO and red 
sharps given his initial presentation as described above. He 
progressed to staff CO, then q5 checks then to q15 checks and 
green sharps without incident. He remained on that level of 
observation throughout while being unit restricted.
.
.
2. PSYCHIATRIC:
#) Mood disorder nos, r/o psychosis secondary to substance use
.
The patient underwent inpatient psychiatric hospitalization for 
diagnostic
clarification, medication management, psychotherapeutic 
intervention, collaboration with outpatient providers, and 
aftercare coordination.
.
At admission, the patient denied having current outpatient 
providers or PCP, although he did later endorse going to ___ 
___ for medical care.
.
He denied any current home psychiatric medications.
.
Upon arrival to our hospital, Risperdal was started in the ED, 
and uptitrated to a dose of RisperiDONE 2 mg PO BID, with 
RisperiDONE 1 mg PO DAILY:PRN anxiety, agitation.
.
During this hospitalization, the patient was also started on 
Divalproex (extended release) 500 mg PO BID, and Benztropine 
Mesylate 1 mg PO/NG QHS.
.
He denied any side effects from this medication regimen.
.
.
3. SUBSTANCE USE DISORDERS:
# Polysubstance use disorder (cocaine, amphetamines, ETOH, 
cannabis) 

The patient was extensively counseled on the risk of substances.
.
He was monitored for signs of withdrawal. During this admission, 
the patient felt well and his vital signs were stable.
.
Aftercare planning includes intake a Dual Diagnosis Partial 
Hospital Program
.
.
4. MEDICAL
Mr ___ was medically cleared in the ED.
.
He initially reported that he had no PMH. Later during this 
hospitalization he endorsed a hx of Hepatitis C.
.
# Hep C
The day prior to discharge, the patient endorsed having a home 
medicaiton for Hep C. However, given that home medication bottle 
unreadable and pt discharging tomorrow AM, deferring to 
outpatient providers to continue to manage this medication. 
Patient stated that he previously received his care at ___ 
___ and that he is motivated to follow up there.
.
# Nondisplaced R hamate fracture
s/p punching a wall, splinted by ED
Patient to follow up in Hand Clinic in one week, see appointment 
in discharge worksheet
.
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
Mr ___ was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
occupational therapy and social work groups that focus on 
teaching patients various coping skills. Mr. ___ did attend 
some groups including the Smart Recovery group. Mr. ___ was 
visible on the milieu and appropriately interacted with staff 
and peers.
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Uncle visited the unit on ___
.
6. INFORMED CONSENT: 
The team discussed the indications for, intended benefits of, 
and possible side effects and risks of this medication, and 
risks and benefits of possible alternatives, including not 
taking the medication, with this patient.  We discussed the 
patient's right to decide whether to take this medication as 
well as the
importance of the patient's actively participating in the 
treatment and discussing any questions about medications with 
the treatment team, and I answered the patient's questions.  The 
patient appeared able to understand and consented to cont taking 
the medication.
.

Medication: Risperdal (risperidone)
---Benefits: Treatment of obsessive thoughts, compulsive 
behaviors, and anxiety
---Adverse effects: Risk of developing diabetes/dyslipidemia, 
EPS, TD (rare), hyperprolactinemia, QTc prolongation, 
drowsiness, nausea, constipation, weight gain, orthostatic 
hypotension (rare)
.Medication: Cogentin (benztropine)
---Benefits: Reduce possibility of movement-related side effects 
of _
---Adverse effects: Dry mouth, nausea, vomiting, urinary 
retention, confusion
.
Medication: Depakote (valproate)
---Benefits: Mood stabilization
---Adverse effects: Headache, drowsiness/sedation, 
lightheadedness, insomnia, anxiety, nausea, vomiting, abdominal 
pain, reduced appetite, diarrhea, weight gain (common), 
thrombocytopenia, tremor, weakness, double vision, alopecia 
(unusual), *hepatotoxicity* (rare), *pancreatitis* (rare)
.
Medication: Cogentin (benztropine)
---Benefits: Reduce possibility of movement-related side effects 
of _
---Adverse effects: Dry mouth, nausea, vomiting, urinary 
retention, confusion
.
.
7. RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and possibly to others.  His 
static risk factors noted at that time include chronic mental 
illness, history of substance abuse, history of violence, male 
gender, unemployment, homelessness, financial hardship, and 
chronic medical illness (Hepatitis C).  The modifiable risk 
factors identified were as such: AH,aggression/agitation, active 
substance use disorder, and limited coping skills_.  These 
modifiable risk factors were addressed with acute stabilization 
in a safe environment on a locked inpatient unit, 
psychopharmacologic adjustments, psychotherapeutic interventions 
(OT groups, SW groups, individual therapy meetings with 
psychiatrists), and presence on a social milieu environment.  
Mr. ___ is being discharged with many protective factors, 
including help-seeking behavior.  Overall, based on the totality 
of our assessment at this time, Mr. ___ is not at an 
acutely elevated risk of self to harm nor danger to others. 
.
Our prognosis of this patient is fair.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Benztropine Mesylate 1 mg PO QHS 
RX *benztropine 1 mg 1 tablet(s) by mouth at bedtime Disp #*14 
Tablet Refills:*0 
2.  Divalproex (DELayed Release) 500 mg PO BID 
RX *divalproex [Depakote] 500 mg 1 tablet(s) by mouth twice a 
day Disp #*28 Tablet Refills:*0 
3.  RisperiDONE 2 mg PO BID 
RX *risperidone 2 mg 1 tablet(s) by mouth twice a day Disp #*28 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Mood disorder nos, Polysubstance use disorder (cocaine, 
amphetamines, ETOH, cannabis), r/o psychosis secondary to 
substance use

 
Discharge Condition:
Mental status: Linear, logical, organized thoughts.
Level of consciousness: Alert and interactive.
Activity status: Ambulatory without assistance, independent with 
ADLs and iADLs.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___